US03943154
EXAMPLE 18: 3-[4-(2,4,6-TRIMETHYLBENZENESULFONAMIDO)BENZENESULFONYL]ACRYLONITRILE
A solution of 6.6 g (0.03 mol) of 2,4,6-trimethylbenzenesulfonyl chloride in 50 ml chloroform is added at room temperature to a stirred slurry of 6.3 g (0.03 mol) of 3-(4-aminobenzenesulfonyl)acrylonitrile in 100 ml chloroform, the slurry additionally containing 4 ml (0.03 mol) triethylamine, portionwise over a five minute period. After 3 hours stirring the reaction mixture is filtered. The chloroform solution is thereafter washed with water, dilute hydrochloric acid, and water, in that order, separated from the water layer, dried over anhydrous magnesium sulfate and evaporated. The recovered 3-[4-(2,4,6-trimethylbenzenesulfonamido)benzenesulfonyl]acrylonitrile has the formula: ##SPC18##

reactant | 2,4,6-trimethylbenzenesulfonyl chloride | 0.03 mol, 6.6 g | CC1=C(C(=CC(=C1)C)C)S(=O)(=O)Cl | C9H11ClO2S
reactant | 3-(4-aminobenzenesulfonyl)acrylonitrile | 0.03 mol, 6.3 g | NC1=CC=C(C=C1)S(=O)(=O)C=CC#N | C9H8N2O2S
reactant | triethylamine | 0.03 mol, 4 ml | C(C)N(CC)CC | C6H15N
solvent | chloroform | 50 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 100 ml | C(Cl)(Cl)Cl | CHCl3
product | 3-[4-(2,4,6-TRIMETHYLBENZENESULFONAMIDO)BENZENESULFONYL]ACRYLONITRILE | CC1=C(C(=CC(=C1)C)C)S(=O)(=O)NC1=CC=C(C=C1)S(=O)(=O)C=CC#N | C18H18N2O4S2
